US07544841B2
Production of (1R)-1-(3-chlorophenyl)-2-[(1R,3R)-3-(3-hydroxyphenyl)cyclohexylamino]ethanol 1/3 toluene-solvate crystal
A mixture of 10 ml of toluene, 1.92 g of (1R,3R)-3-(3-hydroxyphenyl)cyclohexylamine and 1.55 g of (R)-3-chlorostyrene oxide was heated under reflux for 4 hours. The reaction liquid was cooled to room temperature, a seed crystal was inoculated into it, and stirred as such for 30 minutes. The precipitated crystal was taken out through filtration, and then dried under aeration at 50° C. for 2.5 hours to obtain 2.42 g of the entitled compound.

reactant | (1R,3R)-3-(3-hydroxyphenyl)cyclohexylamine | 1.92 g | OC=1C=C(C=CC1)[C@H]1C[C@@H](CCC1)N | C12H17NO
reactant | (R)-3-chlorostyrene oxide | 1.55 g | ClC=1C=C([C@@H]2CO2)C=CC1 | C8H7ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (1R)-1-(3-chlorophenyl)-2-[(1R,3R)-3-(3-hydroxyphenyl)cyclohexylamino]ethanol | 2.42 g | ClC=1C=C(C=CC1)[C@H](CN[C@H]1C[C@@H](CCC1)C1=CC(=CC=C1)O)O | C20H24ClNO2
